US05352793
Propyl 3-pyridyl ketone was reacted with 1-bromobutane according to the procedure of Part a) of Example 6 to give 1-butyl-3-butyryl pyridinium bromide as a tan coloured crystalline solid.

reactant | Propyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)CCC | C9H11NO
reactant | 1-bromobutane | BrCCCC | C4H9Br
product | 1-butyl-3-butyryl pyridinium bromide | [Br-].C(CCC)[N+]1=CC(=CC=C1)C(CCC)=O | InChI=1S/C13H20NO.BrH/c1-3-5-9-14-10-6-8-12(11-14)13(15)7-4-2;/h6,8,10-11H,3-5,7,9H2,1-2H3;1H/q+1;/p-1
